US04987132
To a solution of 1.55 g of 3 (4-chlorophenyl)propanol and 2.51 g of triphenylphosphine in 10 ml of N,N-dimethylformamide, there was gradually added dropwise at room temperature a solution of 2.42 g of iodine in 8 ml of N,N-dimethylformamide while confirming the consumption of iodine. When the color of the reaction mixture ceased to disappear any more, water was added to the reaction mixture, the excess iodine was reduced by addition of 5% aqueous sodium thiosulfate, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (20 g). Elution with hexane gave 1.82 g of 3-(4-chlorophenyl)propyl iodide.

reactant | (4-chlorophenyl)propanol | ClC1=CC=C(C=C1)C(CC)O | C9H11ClO
reactant | triphenylphosphine | 2.51 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 2.42 g | II | I2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 3-(4-chlorophenyl)propyl iodide | 1.82 g | ClC1=CC=C(C=C1)CCCI | C9H10ClI
